US06716843B2
(2S)-2-Cyano-1-[N5-{(imino)-(methylsulphonylamino)-methyl}-(S)-ornithyl]-pyrrolidine Dihydrochloride
Starting from (S)-N2-(benzyloxycarbonyl)-arginine, methanesulphonyl chloride and (S)-2-cyano-pyrrolidine hydrochloride, the expected product is obtained according to the procedure described in Example 1.

reactant | (S)-N2-(benzyloxycarbonyl)-arginine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C14H20N4O4
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | (S)-2-cyano-pyrrolidine hydrochloride | Cl.C(#N)[C@H]1NCCC1
product | (2S)-2-Cyano-1-[N5-{(imino)-(methylsulphonylamino)-methyl}-(S)-ornithyl]-pyrrolidine Dihydrochloride | Cl.Cl.C(#N)[C@H]1N(CCC1)C([C@@H](N)CCCNC(NS(=O)(=O)C)=N)=O | InChI=1S/C12H22N6O3S.2ClH/c1-22(20,21)17-12(15)16-6-2-5-10(14)11(19)18-7-3-4-9(18)8-13;;/h9-10H,2-7,14H2,1H3,(H3,15,16,17);2*1H/t9-,10-;;/m0../s1
